US08404856B2
Step 3: 5-{[2-oxo-4-(trifluoromethyl)-1,2-dihydropyridin-3-yl]oxy}isophthalonitrile 18-3
To a high pressure vessel charged with 3-(3,5-dibromophenoxy)-4-(trifluoromethyl)pyridin-2(1H)-one (0.200 g, 0.484 mmol) and copper(I) cyanide (0.434 g, 4.84 mmol) was added N-methylpyrrolidinone (2 mL). The vessel was sealed and placed in an oil bath heated to 175° C. After 90 minutes, the reaction mixture was allowed to cool to room temperature. Water (25 mL) and ethyl acetate (50 mL) were added to the reaction mixture. This mixture was filtered through diatomaceous earth and the filtrate layers were separated. The aqueous layer was extracted with ethyl acetate (50 mL). The combined organic extracts were washed with brine (2×50 mL), dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was adsorbed onto silica gel and purified by column chromatography on a pre-packed silica gel Redi Sep 40 gram column, eluting with 0-5% methanol in CH2Cl2 to afford the title compound. 1H NMR (DMSO-d6) δ 12.72 (s, 1H), 8.16-8.14 (m, 1H), 8.02-7.98 (m, 2H), 7.61 (d, J=7.0 Hz, 1H), 6.50 (d, J=6.9 Hz, 1H). LRMS (M+1)=305.9.

reactant | 3-(3,5-dibromophenoxy)-4-(trifluoromethyl)pyridin-2(1H)-one | 0.484 mmol, 0.200 g | BrC=1C=C(OC=2C(NC=CC2C(F)(F)F)=O)C=C(C1)Br | C12H6Br2F3NO2
reactant | copper(I) cyanide | 4.84 mmol, 0.434 g | [Cu]C#N
reactant | N-methylpyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
reactant | Water | 25 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-{[2-oxo-4-(trifluoromethyl)-1,2-dihydropyridin-3-yl]oxy}isophthalonitrile | O=C1NC=CC(=C1OC=1C=C(C=C(C#N)C1)C#N)C(F)(F)F | C14H6F3N3O2
